US07812040B2
4-(((trans)-3-(3,5-dimethyl-4-((pyrrolidin-1-yl)methyl)phenoxy)cyclobutyl)methyl) morpholine.
A solution intermediate 60, 3,5-dimethyl-4-(pyrrolidin-1-ylmethyl)phenol (0.62 g, 3.0 mmol) and potassium tert-butoxide (3 mL, 1M THF, 3.0 mmol) in DMSO (10 mL) was heated to 100° C. under vigorous stirring. The mixture was stirred at this temperature for 10 min. A solution of intermediate 41, cis-3-(Morpholin-4-ylmethyl)cyclobutyl methanesulfonate (0.3 g, 1.2 mmol) in DMSO (10 mL) and tetrabutylammonium bromide (0.16 g, 0.48 mmol) were added. The mixture was stirred at 100° C. overnight, cooled, and diluted with Et2O (50 mL). The solution was washed with water (50 mL), 1N NaOH (3×25 mL), brine, dried with Na2SO4, and evaporated. The residue was purified by chromatography using a 40 g ISCO column eluting with a gradient of 5%, 10% MeOH:CHCl3 with 0.2% NH4OH. The product containing fractions were collected and concentrate to give the title compound (282 mg, 66% yield) as an oil. LCMS-data: 359.2 (M+H)+ (calculated for C22H34N2O2 358.5). 1H NMR data (CDCl3) 6.43 (s, 2H), 4.71-4.68 (m, 1H), 3.71-3.69 (m, 4H), 3.54 (s, 2H), 2.62-218 (m, 21H), 1.63-1.80 (m, 4H); C13 NMR (CDCl3) d 156.1, 139.2, 114.6, 70.7, 67.2, 65.1, 54.2, 54.0, 52.9, 34.3, 26.4, 23.8, 20.7.

reactant | 3,5-dimethyl-4-(pyrrolidin-1-ylmethyl)phenol | 3.0 mmol, 0.62 g | CC=1C=C(C=C(C1CN1CCCC1)C)O | C13H19NO
reactant | potassium tert-butoxide | 3.0 mmol, 1M, 3 mL | CC(C)([O-])C.[K+]
reactant | cis-3-(Morpholin-4-ylmethyl)cyclobutyl methanesulfonate | 1.2 mmol, 0.3 g | CS(=O)(=O)O[C@@H]1C[C@@H](C1)CN1CCOCC1 | C10H19NO4S
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium bromide | 0.48 mmol, 0.16 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 4-(((trans)-3-(3,5-dimethyl-4-((pyrrolidin-1-yl)methyl)phenoxy)cyclobutyl)methyl) morpholine | 282 mg, 66% yield | CC=1C=C(O[C@@H]2C[C@H](C2)CN2CCOCC2)C=C(C1CN1CCCC1)C | C22H34N2O2
